US08008307B2
Step a: N-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]-6-chloro-5-fluoropyrimidin-4-amine
A solution of 4,6-dichloro-5-fluoropyrimidine (102 mg, 0.61 mmol), (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-cyclopentanamine (200 mg, 0.56 mmol), and triethylamine (0.16 mL, 1.11 mmol) in ethanol (2.00 mL) was heated in a sealed tube under microwave irradiation at 140° C. for 1 h. The reaction mixture was concentrated under vacuum, and the residue was purified by flash chromatography (0 to 15% ethyl acetate/hexanes) to afford the title compound (213 mg, 70%) as a light yellow solid. LC/MS: Rt=2.60 min, ES+ 490.5 (AA standard).

reactant | 4,6-dichloro-5-fluoropyrimidine | 0.61 mmol, 102 mg | ClC1=NC=NC(=C1F)Cl | C4HCl2FN2
reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-cyclopentanamine | 0.56 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N | C18H41NO2Si2
reactant | triethylamine | 1.11 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2.00 mL | C(C)O | C2H6O
product | N-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]-6-chloro-5-fluoropyrimidin-4-amine | 213 mg, 70% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)NC1=NC=NC(=C1F)Cl | C22H41ClFN3O2Si2
